US07060697B2
To a solution of 4-bromo-3-(trifluoromethy)aniline (360 mg, 1.50 mmol, 1 eq.) in DMF (5 mL) is added phenyl boronic acid (274 mg, 2.25 mmol, 1.5 eq.), K2CO3 (621 mg, 4.5 mmol, 3 eq.), and tetrakis(triphenylphosphine)palladium (0) (173 mg, 0.15 mmol, 0.1 eq.). The mixture is purged with N2 (g) for 5 minutes and heated at 120° C. for 20 h. After cooling to room temperature, the reaction is diluted with EtOAc and washed with H2O followed by saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the residue is purified by gradient silica gel chromatography (hexanes to 3:1 hexanes/EtOAc) to give 2-trifluoromethyl-biphenyl-4-ylamine. [MS: (ES+) 238.1 (M+1)+].

reactant | 4-bromo-3-(trifluoromethy)aniline | 1.50 mmol, 360 mg, 1 eq. | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | phenyl boronic acid | 2.25 mmol, 274 mg, 1.5 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 4.5 mmol, 621 mg, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 173 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-trifluoromethyl-biphenyl-4-ylamine | FC(C1=C(C=CC(=C1)N)C1=CC=CC=C1)(F)F | C13H10F3N
